Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],-4.50095631513
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:4][C:5],3.27236069449
[H:3].[O:1][C:2]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.99252816866
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.90688844086
[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],1.3980661637099998
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:4][H:5].[H:1][C:3]([C:2])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],10.595079131799999
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C:4]#[C:5][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:6],4.3415067175
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:8]([H:9])([H:10])[H:11].[O:6][H:7],6.07197136094
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.78585885776
[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:4][H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-7.57304391887
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4][H:5].[C:6][C:7]([H:8])([H:9])[H:10],6.47078041365
[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13],0.5564830325810001
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])=[C:8]([H:9])[O:10][H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-0.566083535179
[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.7944858473599996
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][O:2],5.9883366478900015
[H:1][O:2][C:3]([H:4])=[C:5]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:6][H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.80282277384
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],5.22831905507
[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-1.94287363659
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[C:13]([H:14])[H:15])[C:16]([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]1([H:17])[H:18],-2.82204392
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]1\[O:9][C:10]1([H:11])[H:12],-2.47491896665
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],5.273653563580001
[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.79846972982
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]=[C:10]([H:11])[H:12].[H:8],1.80421498162
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15].[H:1][O:2],5.356495273999999
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.36727215125
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1],7.59048743377
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],3.0731093574
